US06544981B2
1-[[2,3,4,5-Tetrahydro-3-[[1-[(2-methyl-5-benzofuranyl)amino]-2-nitroethenyl]amino]-2-oxo-1H-1-benzazepin-1-yl]acetyl]pyrrolidine
A solution of 2-methyl-5-benzofuranamine (0.24 mmol), 1,1-bis(methylthio)-2-nitroethylene (40 mg, 0.24 mmol) and triethylamine (0.035 mL, 0.25 mmol) in ethanol (0.35 mL) was stirred at 80° C. for 2 h. To the mixture was added 1-[(3-amino-2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepin-1-yl)acetyl]pyrrolidine (70 mg, 0.24 mmol) and the resulting reaction was stirred at 80° C. overnight. The reaction mixture was purified by column chromatography (silica, 3% methanol/ethyl acetate) to provide the title compound (29 mg, 24% yield): MS (ESI, pos. ion spectrum) m/z 504; HPLC (method A) tR 3.67 min.

reactant | 2-methyl-5-benzofuranamine | 0.24 mmol | CC=1OC2=C(C1)C=C(C=C2)N | C9H9NO
reactant | 1,1-bis(methylthio)-2-nitroethylene | 0.24 mmol, 40 mg | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | triethylamine | 0.25 mmol, 0.035 mL | C(C)N(CC)CC | C6H15N
reactant | 1-[(3-amino-2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepin-1-yl)acetyl]pyrrolidine | 0.24 mmol, 70 mg | NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)N2CCCC2)=O | C16H21N3O2
solvent | ethanol | 0.35 mL | C(C)O | C2H6O
product | 1-[[2,3,4,5-Tetrahydro-3-[[1-[(2-methyl-5-benzofuranyl)amino]-2-nitroethenyl]amino]-2-oxo-1H-1-benzazepin-1-yl]acetyl]pyrrolidine | 29 mg, 24% yield | CC=1OC2=C(C1)C=C(C=C2)NC(=C[N+](=O)[O-])NC2C(N(C1=C(CC2)C=CC=C1)CC(=O)N1CCCC1)=O | C27H29N5O5
